US06200978B1
tert-butyl 3-(4-formylphenyl)-1-azetidinecarboxylate
Zinc dust (253 mg) was stirred under nitrogen overnight. To this was added DMF (5 ml) and dibromomethane (55 mg) dissolved in DMF (1 ml) and the mixture warmed to ˜70° C. The reaction mixture was cooled to room temperature and chlorotrimethylsilane (32 mg) in DMF (1 ml) added and stirred at room temperature for 15 minutes. To this was added 2-iodo-N-Boc-azetidine (Billotte, S., Synlett, 1998, 379-380) (1.04 g) in DMF (5 ml). The reaction mixture warmed to 40° C. and the mixture sonicated for 30 minutes during which time the zinc powder dissolved to leave a hazy solution. To the solution of zincate was added 4-iodobenzaldehyde (Preparation 43) (851 mg in 5 ml DMF), tri-2-furylphosphine (35 mg in 1 ml DMF) and Pd(dbq)2 (42 ml in 1 ml DMF). The resulting mixture was heated at 60-70° C. for 4 hours, cooled to room temperature and partitioned between ammonium chloride solution and diethyl ether, and the aqueous layer was extracted with diethyl ether (3×). The combined organic extracts were dried (Na2SO4), evaporated in vacuo and purified over silica (pentane:ethyl acetate; 4:1) to afford the title compound as a mobile oil, 626 mg.

reactant | dibromomethane | 55 mg | BrCBr | CH2Br2
reactant | chlorotrimethylsilane | 32 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-iodo-N-Boc-azetidine | 1.04 g | IC1N(CC1)C(=O)OC(C)(C)C | C8H14INO2
reactant | 4-iodobenzaldehyde | 5 ml, 851 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | tri-2-furylphosphine | 1 ml, 35 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Zinc | 253 mg | [Zn] | Zn
catalyst | zincate | [O-]S(=O)(=O)[O-].[Zn+2]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-(4-formylphenyl)-1-azetidinecarboxylate | C(=O)C1=CC=C(C=C1)C1CN(C1)C(=O)OC(C)(C)C | C15H19NO3
